US04297350
EXAMPLE 14 17β-Methoxy-2,2-dimethyl-5α-androstan-3-one (I)
17β-Hydroxy-5α-androstan-3-one (50 g.) in DMF (500 ml.) is cooled to 5° in an ice bath and silver oxide (58 g.) and N,N-diisopropylethylamine is added (85 ml.). The mixture is stirred and methyl iodide (142 g.) is slowly added keeping the temperature at about 5°. The stirring is continued and the mixture is allowed to come to 20°-25°. After 17 hours diethyl ether (2 l.) is added and the mixture filtered thru a bed of Celite to remove the inorganic solids. The filtrate is washed with water, dilute hydrochloric acid, water again, and dried over sodium sulfate, then filtered, and concentrated. The concentrate is column chromatographed over silica gel. The appropriate fractions (TLC) are pooled and concentrated to give the title compound, m.p. 116°-120°, IR (mull) 1700 cm-1 ; NMR (CDCl3) 0.77, 1.01, 1.08, 1.18, 3.24, and 3.37 δ.

reactant | 17β-Hydroxy-5α-androstan-3-one | 50 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(CC[C@]3(C)[C@H]1CC2)=O | C19H30O2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl iodide | 142 g | CI | CH3I
reactant | diethyl ether | 2 l | C(C)OCC | C4H10O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
catalyst | silver oxide | 58 g | [Ag]=O
product | 17β-Methoxy-2,2-dimethyl-5α-androstan-3-one | CO[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@H]3CC(C(C[C@]3(C)[C@H]1CC2)(C)C)=O | C22H36O2
